US04000153
In the manner given in Example 5, 5-bromo-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is treated with phosphorus tribromide in chloroform to give 5-bromo-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-bromo-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CO | C17H14BrN3O2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CBr | C17H13Br2N3O
